US03962249
1-(3-Phenylpropyl)-4-(2-methyl-3-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 1 from a mixture of 1-(3-phenylpropyl)piperazine, 2-methyl-3-furoyl chloride and benzene.

reactant | 1-(3-phenylpropyl)piperazine | C1(=CC=CC=C1)CCCN1CCNCC1 | C13H20N2
reactant | 2-methyl-3-furoyl chloride | CC=1OC=CC1C(=O)Cl | C6H5ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(3-Phenylpropyl)-4-(2-methyl-3-furoyl)piperazine hydrochloride | Cl.C1(=CC=CC=C1)CCCN1CCN(CC1)C(=O)C1=C(OC=C1)C | InChI=1S/C19H24N2O2.ClH/c1-16-18(9-15-23-16)19(22)21-13-11-20(12-14-21)10-5-8-17-6-3-2-4-7-17;/h2-4,6-7,9,15H,5,8,10-14H2,1H3;1H
